US08138175B2
A) 3-(3,4-Dichloro-phenylamino)-propionic acid tert-butyl ester
A solution of 9.61 g (59.33 mmol) of 3,4-dichloro-phenylamine and 10.21 ml (59.33 mmol) of 2,6-lutidine in 55 ml of toluene was treated slowly with 6.50 ml (59.33 mmol) of tert-butyl 3-bromopropionate and stirred 30 h at reflux temperature. The reaction was then partitioned between 10% aq. KHSO4 solution and EtOAc (3×). The organic phases were washed with 10% aq. NaCl solution, dried over Na2SO4 evaporated and purified by flash silica gel column (n-heptane:EtOAc 9:1) to yield 8.98 g (52%) of the title compound as off-white solid. MS: 290.0 (MH+, 2Cl).

reactant | 3,4-dichloro-phenylamine | 59.33 mmol, 9.61 g | ClC=1C=C(C=CC1Cl)N | C6H5Cl2N
reactant | 2,6-lutidine | 59.33 mmol, 10.21 ml | N1=C(C=CC=C1C)C | C7H9N
reactant | tert-butyl 3-bromopropionate | 59.33 mmol, 6.50 ml | BrCCC(=O)OC(C)(C)C | C7H13BrO2
solvent | toluene | 55 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(3,4-Dichloro-phenylamino)-propionic acid tert-butyl ester | 8.98 g, 52% | C(C)(C)(C)OC(CCNC1=CC(=C(C=C1)Cl)Cl)=O | C13H17Cl2NO2
